US07642264B2
2-Bromo-6-(4-chloro-phenyl)-4-methyl-pyridine
The title compound was prepared from 6-(4-chloro-phenyl)-4-methyl-1H-pyridin-2-one (1.1 g, 5 mmol) and phosphoryl bromide (4.63 g, 16 mmol) in toluene (9.5 mL) according to the general procedure Ia to d preparation of bromides. Obtained as a light brown solid (1.0 g, quant., 74% purity). MS (ISP) 282.0 [(M+H)+], 284.0 [(M+2+H)+] and 286.0 [(M+4+H)+].

reactant | 6-(4-chloro-phenyl)-4-methyl-1H-pyridin-2-one | 5 mmol, 1.1 g | ClC1=CC=C(C=C1)C1=CC(=CC(N1)=O)C | C12H10ClNO
reactant | phosphoryl bromide | 16 mmol, 4.63 g | P(=O)(Br)(Br)Br | Br3OP
solvent | toluene | 9.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Bromo-6-(4-chloro-phenyl)-4-methyl-pyridine | BrC1=NC(=CC(=C1)C)C1=CC=C(C=C1)Cl | C12H9BrClN
